Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Code stroke

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ R handed woman with a past
medical history significant for HTN, Glaucoma with significant
visual impairment, HLD, Osteoporosis, who presents to the ED as 
a
code stroke for confusion, difficulty speaking. 

Briefly, the patient was last known well at 9pm last night when
she was watching the superbowl with her daughter who she lives
with. After this time her daughter went to sleep and she assumes
that the patient also went to sleep after the game was over.
Apparently earlier that day she was very well and had cooked
"chicken wings and a whole meal" for the superbowl. At baseline
she is functional and able to perform all of her ADLs on her 
own.
The patient wakes up very early around 4 am most mornings to put
in her eye drops and get her day started. At 4:30 AM her 
daughter
came into her room to check on her and noted that the patient 
was
awake but seemed off. She had all of her earrings spread out and
started to talk about irrelevant things with her daughter. Her
daughter also noted that she was slow when speaking and was 
using
the wrong words to describe things. This prompted her daughter 
to
call their PCP who then saw the patient later this morning. 

Of note, this event today is in the setting of a longer issue
that has been going on for 2-weeks. For the past two weeks the
patient has been saying that her R leg is hurting her
particularly in her R knee and hip. She has had multiple
unwitnessed falls and one witnessed fall (where she fell 
forwards
on the stairs) because something is wrong with her R leg. 

At the PCP office today the patient was definitely noted to be
confused. In fact, she said to the doctor "when is our next
commercial" when she presumably meant to say "when is our next
appointment". Her daughter notes that she was lethargic and just
not herself for the duration of the appointment. Her PCP then
referred the patient to the ER for evaluation of language
diffiuclties and her R leg. 

The patient denies any dysuria, URI symptoms or fevers. She
denies missing or confusing any medications. She states she 
feels
"fine" but appears flushed and lethargic. Her daughter denies 
any
event like this in the past, no prior seizures or stroke-like
episodes. 
 
On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies numbness,
parasthesiae. No bowel or bladder incontinence or retention. 
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
1. Osteoporosis
2. HTN
3. Glaucoma
 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission exam:
Vitals: T: 98.5, HR 58-74, BP ___
General: Awake, lethargic, skin is flushed 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: warm flushed skin on cheeks
 
Neurologic:
-Mental Status: Alert, oriented to hospital, month, and year.
Unable to provide a full history as she speaks slowly.
Inattentive unable to perform ___ backwards. Have to repeat
commands multiple times at first, then she was able to perform
commands briskly for a short while before becoming lethargic
again. With stroke card able to read. Naming she called a cactus
a "catalogue" and for hammock called it a "tree stumps". She was
able to repeat. No dysarthria. She was able to follow midline
commands, difficulty with appendicular. No evidence of neglect
but has worse vision out of R eye

-Cranial Nerves:
II, III, IV, VI:  irregular pupils 2-->1 mm  EOMI without
nystagmus. Normal saccades. Able to count fingers. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___    ___  5     5    5      5   
R  5    ___    ___ 5     5    5      5   

-Sensory: No deficits to light touch. No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  1    1    2   0
R  2  1    1    0   0
Plantar response was flexor bilaterally.

-Coordination: Mild bilatearl intention tremor. Slow finger tap
bilaterally. No dysmetria. 

-Gait: deferred  

======================================
Discharge:
General: Awake, cooperative, in NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM.
 Pulmonary: normal WOB
 Cardiac: Warm, well-perfused.
 Abdomen: Soft, ND.
 Extremities: No ___ edema.
 Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert, fluent speech and speaking in full
sentences. Able to relate history well and has good insight into
her symptoms. Oriented to person, place and date. DOWB.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.

  IP Quad Ham  TA ___  ___ 
L  ___     5    5      5   
R *4  *4+ *4+   5    5      5

-Reflexes:
bicep brachio patellar achilles
L 2+    2+     2+       2+
R 2+    2+     1        1  

-Sensory: No deficits to light touch. 

gait: Able to get out of bed by herself. Ambulate without 
assistance. 

 
Pertinent Results:
MRI brain w/wo:
IMPRESSION:  
  
No acute findings. 
Brain parenchymal atrophy, chronic small vessel ischemic 
changes. 

EEG prelim:
brief bursts of frontal slowing other wise normal background, no 
epileptiform discharges or seizures.
  

 
Brief Hospital Course:
Ms. ___ is an ___ woman with a past medical
history significant for htn, glaucoma, osteoporosis who 
presented
with transient episode of confusion and language difficulties 
that lasted several hours and then self resolved. 
She underwent MRI brain which did not show a stroke or any other 
abnormality. She underwent EEG which showed no epileptiform 
discharges or seizures. 
Etiology of her transient event is unclear. DDx includes 
seizures, despite negative EEG versus possible hypertensive 
urgency (BP on admission was between 130-170 systolic). We 
discussed possibility of further work up including Lumbar 
puncture with the patient which the patient and her daughter 
would like to forgo at this time. 
Regarding her two falls in the past 2 weeks. Pt states that the 
first fall was clearly a mechanical fall and this was also the 
fall that resulted in right hip pain. The second fall she did 
bend over to pick something up and lost balance. She underwent 
X-rays of hips and knee which were unremarkable. 
She was seen by ___ who recommended home ___.
No changes in medication were made at this time. 
Patient informed to come back to the hospital if any other 
episodes, but otherwise she will follow up with neurology as an 
outpatient
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Bimatoprost  0.03%  Ophth  (*NF*) 0.01 percent Other 
DAILY:PRN glaucoma  
2. Lisinopril 10 mg PO DAILY hypertension 
3. Timolol Maleate 0.25% 1 DROP BOTH EYES BID glaucoma  
4. Aspirin 81 mg PO DAILY prophylaxis  
5. Calcium Carbonate 500 mg PO QID:PRN osteoporosis 
6. Vitamin D 1000 UNIT PO DAILY osteoporosis 
7. Multivitamins 1 TAB PO DAILY health maintenance  
8. Alendronate Sodium 70 mg PO 1X/WEEK (___) osteoporosis 

 
Discharge Medications:
1.  Alendronate Sodium 70 mg PO 1X/WEEK (___) osteoporosis  
2.  Aspirin 81 mg PO DAILY prophylaxis   
3.  Bimatoprost  0.03%  Ophth  (*NF*) 0.01 percent Other 
DAILY:PRN glaucoma   
4.  Calcium Carbonate 500 mg PO QID:PRN osteoporosis  
5.  Lisinopril 10 mg PO DAILY hypertension  
6.  Multivitamins 1 TAB PO DAILY health maintenance   
7.  Timolol Maleate 0.25% 1 DROP BOTH EYES BID glaucoma   
8.  Vitamin D 1000 UNIT PO DAILY osteoporosis  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Transient confusion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___ 
___ were admitted to the hospital for an episode of transient 
confusion lasting several hours. The following day ___ were back 
to your normal self. ___ underwent an MRI of your brain which 
did not show any abnormality. ___ also underwent an EEG to 
assess for seizures, and it did not show seizure activity. 
The exact etiology of your symptom is unclear. It could have 
been due to a seizure. People can have seizures even if the EEG 
is normal. Another possibility is that your blood pressure was 
too high and this resulted in confusion. Your blood pressure 
when ___ came to the hospital was between 130-170 systolic.
We did not make any changes to your medications, because even if 
this was a  seizure we usually do not start patients on 
anti-seizure medication after one episode. Given how well ___ 
look now we decided it is okay for ___ to go home with 
outpatient neurology follow up. However, should ___ have any 
other episodes ___ need to come back to the hospital for further 
work up. 
In regards to your two falls recently, after talking to ___ and 
your daughter it seems like these were mechanical falls. This is 
also the reason for your right hip pain, ___ mentioned. In 
either, case we got a x-ray of your hips and knee and these did 
not show any abnormality.
___ should follow up with your PCP next week for further work up 
for your hip pain.

Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team    

 
Followup Instructions:
___